US07910740B2
N-Butyl-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide
The title compound was prepared in analogy to example 27 from 100 mg (0.27 mmol) ({2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester and 70 mg (0.94 mmol) n-butylamine yielding 95 mg (89%) N-butyl-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide as a brown foam. MS ISP (m/e): 400.3 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.45 (s, 1H), 7.93 (t, 1H), 7.68 (s, 1H), 7.64 (s, 1H), 7.23 (d, 1H), 7.19 (d, 1H), 7.02 (s, 1H), 6.62 (s, 1H), 3.79 (s, 3H), 3.57 (s, 2H), 3.05 (br q, 2H), 2.14 (s, 3H), 1.39-1.26 (m, 6H), 0.85 (t, 3H).

reactant | {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C18H20N4O3S
reactant | n-butylamine | 0.94 mmol, 70 mg | C(CCC)N | C4H11N
product | N-Butyl-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide | C(CCC)NC(CC=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C20H25N5O2S
